US08859591B2
To a flask containing 5-bromo-3-methyl-2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridine (55.0 mg, 0.180 mmol) in 1,4-dioxane (0.100 mL) and degassed water (0.100 mL), was added tris(dibenzylideneacetone)dipalladium(0) (21.3 mg, 0.0360 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (6.10 mg, 0.014 mmol), and potassium hydroxide (31.9 mg, 0.0540 mmol). The reaction was purged with nitrogen and then heated at 100° C. for 2 hour. The reaction was quenched with 1 N HCl and extracted three times with ethyl acetate. The organics were dried over sodium sulfate, filtered and concentrated. Purification by silica gel flash chromatography (0-25% ethyl acetate in heptane) afforded impure 5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ol (containing approximately 30% impurity as a solid. MS (M+H): 244.2.

reactant | 5-bromo-3-methyl-2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridine | 0.180 mmol, 55.0 mg | BrC=1C=C(C(=NC1)N1N=CC(=C1)C(F)(F)F)C | C10H7BrF3N3
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.014 mmol, 6.10 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | potassium hydroxide | 0.0540 mmol, 31.9 mg | [OH-].[K+]
solvent | 1,4-dioxane | 0.100 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0360 mmol, 21.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ol | CC=1C=C(C=NC1N1N=CC(=C1)C(F)(F)F)O | C10H8F3N3O
